### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Matrix/SpecialLinear): More About SL and SL2

### PR DESCRIPTION
**Pull request by Whysoserioushah**
---

- [x] depends on: #39997 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Projectivization/Action.lean [hunk 1]
```diff
@@ -183,6 +185,83 @@ instance : IsMultiplyPretransitive (Matrix.SpecialLinearGroup ι K) (ℙ K (ι 
...
+        MulOpposite.op_one, one_smul, Matrix.col_apply, hm1 i j hij, Ne.symm hij, zero_add,
+        hm1 j i (Ne.symm hij)] at hi hj
+      rw [← hi, ← hj]
+    use m i i
+    have := m.2
+    rw [← Matrix.IsDiag.diagonal_diag hm1, Matrix.det_diagonal] at this
+    simp only [Matrix.diag_apply] at this
+    rw [Finset.prod_eq_pow_card (b := m i i) (fun j _ ↦ hm2 j i), Finset.card_univ] at this
+    nth_rw 3 [← Matrix.IsDiag.diagonal_diag hm1]
+    simpa [this, funext_iff] using hm2 i
```
Comment (yuanyi-350) [inline Mathlib/LinearAlgebra/Projectivization/Action.lean]:
```suggestion
  · set f : (ι → K) →ₗ[K] ι → K := (Matrix.SpecialLinearGroup.toLin' m).toLinearMap with hf
    obtain ⟨a, ha⟩ := f.exists_eq_smul_id_of_forall_notLinearIndependent fun (v : ι → K) ↦ by
      by_cases hv : v = 0
      · simp [hv, linearIndependent_fin2]
      · simpa [LinearIndependent.pair_iff' hv, mk_eq_mk_iff'] using hm (.mk K v hv)
    have hscalar : m.1 = Matrix.scalar ι a := calc
      m.1 = LinearMap.toMatrix' f := by
        rw [hf, Matrix.SpecialLinearGroup.toLin'_to_linearMap, LinearMap.toMatrix'_toLin']
      _ = (algebraMap K (Module.End K (ι → K)) a).toMatrix' := congrArg LinearMap.toMatrix' ha
      _ = Matrix.scalar ι a := LinearMap.toMatrix'_algebraMap a
    exact ⟨a, by simpa [hscalar] using m.2, hscalar.symm⟩
```

Comment (yuanyi-350) [reply Mathlib/LinearAlgebra/Projectivization/Action.lean]: This golf requires an extra `public import Mathlib.LinearAlgebra.Center`, but it does significantly reduce the code length.

File: Mathlib/Data/Matrix/Basis.lean [hunk 2]
```diff
@@ -127,6 +127,10 @@ theorem single_add [AddZeroClass α] (i : m) (j : n) (a b : α) :
   simp only [single, of_apply]
   split_ifs with h <;> simp [h]
 
+lemma single_neg [NegZeroClass α] (i j : n) (b : α) :
+    - single i j b = single i j (-b) :=
+  neg_of _|>.trans congr(of $(by simp_rw [Pi.neg_def, neg_ite, neg_zero]))
```
Comment (riccardobrasca) [inline Mathlib/Data/Matrix/Basis.lean]: Can you make `$(by simp_rw [Pi.neg_def, neg_ite, neg_zero])` a little more readable?

File: Mathlib/Data/Matrix/Basis.lean [hunk 3]
```diff
@@ -136,6 +140,11 @@ theorem single_mulVec [NonUnitalNonAssocSemiring α] [Fintype m]
   · simp
   simp [h, h.symm]
 
+lemma single_mulVec_eq [Fintype n] [NonAssocSemiring α] (i j : n) (b : α) (w : n → α) :
+    single i j b *ᵥ w = (b * w j) • Pi.single i (1 : α) := by
+  ext
+  simp [Matrix.single_mulVec, Pi.smul_apply, smul_eq_mul, Function.update_apply, Pi.single_apply]
```
Comment (riccardobrasca) [inline Mathlib/Data/Matrix/Basis.lean]: I guess that some of the declarations inside the `simp [...]` can be removed.

File: Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean [hunk 4]
```diff
@@ -484,6 +484,114 @@ protected lemma SpecialLinearGroup.smul_def
...
+/-- The transvection `1 + b · E_{i,j}` (the identity plus `b` in position `(i, j)`)
+as an element of `SL ι F`, when `i ≠ j`. -/
+noncomputable def SpecialLinearGroup.transvection (i j : ι) (hij : i ≠ j) (b : F) :
+    Matrix.SpecialLinearGroup ι F :=
+  ⟨(1 : Matrix ι ι F) + single i j b, Matrix.det_transvection_of_ne i j hij b⟩
+
+namespace SpecialLinearGroup
+
+lemma transvection_coe (i j : ι) (hij : i ≠ j) (b : F) :
+    (transvection i j hij b).1 = (1 : Matrix ι ι F) + single i j b := rfl
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean]: Can you write an actual coercion instead of using `(...).1`?

File: Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean [hunk 5]
```diff
@@ -484,6 +484,114 @@ protected lemma SpecialLinearGroup.smul_def
...
+/-- The transvection `transvection i j hij b` acts on `e_j = Pi.single j 1` by adding `b·e_i`. -/
+lemma transvection_mulVec_single_other (i j : ι) (hij : i ≠ j) (b : F) :
+    (transvection i j hij b).1 *ᵥ (Pi.single j (1 : F)) = Pi.single j 1 + b • Pi.single i 1 := by
+  rw [transvection_coe]
+  simp [-mulVec_single, add_mulVec, single_mulVec_eq]
+
+/-- Inverse of a transvection: `transvection i j hij b * transvection i j hij (-b) = 1`. -/
+lemma transvection_mul_neg (i j : ι) (hij : i ≠ j) (b : F) :
+    transvection i j hij b * transvection i j hij (-b) = 1 := by
+  apply Subtype.ext
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean]: Does `ext` work here?

File: Mathlib/LinearAlgebra/Projectivization/Action.lean (hunk 1 above)
Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/Projectivization/Action.lean]: I've applied this change in #39997, merging that branch should work

File: Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean (hunk 5 above)
Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean]: done

File: Mathlib/Data/Matrix/Basis.lean (hunk 3 above)
Comment (Whysoserioushah) [reply Mathlib/Data/Matrix/Basis.lean]: removed

File: Mathlib/Data/Matrix/Basis.lean [hunk 6]
```diff
@@ -127,6 +127,10 @@ theorem single_add [AddZeroClass α] (i : m) (j : n) (a b : α) :
   simp only [single, of_apply]
   split_ifs with h <;> simp [h]
 
+lemma single_neg [NegZeroClass α] (i j : n) (b : α) :
+    - single i j b = single i j (-b) :=
+  neg_of _|>.trans <| ext fun x y ↦ by simp [single, neg_ite]
```
Comment (b-mehta) [inline Mathlib/Data/Matrix/Basis.lean]:
```suggestion
  neg_of _ |>.trans <| ext fun x y ↦ by simp [single, neg_ite]
```

File: Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean [hunk 7]
```diff
@@ -483,6 +483,112 @@ protected lemma SpecialLinearGroup.smul_def
...
+section SL2
+
+variable {F : Type*} [Field F]
+
+open MatrixGroups
+
+/-- Diagonal element `D(a)` in `SL ι F` when `card ι = 2`: the matrix
+`diagonal (k ↦ if k = i₁ then a else a⁻¹)`. -/
+noncomputable def diag2 (a : F) (ha : a ≠ 0) : SL(2, F) :=
+  ⟨diagonal (fun i ↦ match i with | 0 => a|1 => a⁻¹), by simp [mul_inv_cancel₀ ha]⟩
```
Comment (b-mehta) [inline Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean]:
```suggestion
  ⟨diagonal (fun i ↦ match i with | 0 => a | 1 => a⁻¹), by simp [mul_inv_cancel₀ ha]⟩
```

File: Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean [hunk 8]
```diff
@@ -483,6 +483,112 @@ protected lemma SpecialLinearGroup.smul_def
...
+
+end transvection
+
+section SL2
+
+variable {F : Type*} [Field F]
+
+open MatrixGroups
+
+/-- Diagonal element `D(a)` in `SL ι F` when `card ι = 2`: the matrix
```
Comment (b-mehta) [inline Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean]: I don't think it's helpful to frame it this way - just say it's the diagonal element D(a) in SL(2, F)

File: Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean [hunk 9]
```diff
@@ -483,6 +483,112 @@ protected lemma SpecialLinearGroup.smul_def
...
+lemma diag2_inv (a : F) (ha : a ≠ 0) :
+    (diag2 a ha)⁻¹ = diag2 a⁻¹ (inv_ne_zero ha) := by
+  apply inv_eq_of_mul_eq_one_right
+  exact diag2_mul_inv a ha
+
+open scoped commutatorElement
+
+lemma commutator_diag2_transvection (a : F) (ha : a ≠ 0) (b c : F)
+    (hc : c = b * (a ^ 2 - 1)) : ⁅diag2 a ha, SpecialLinearGroup.transvection 0 1 zero_ne_one b⁆ =
+    (SpecialLinearGroup.transvection 0 1 zero_ne_one c : SL(2, F)) := by
```
Comment (b-mehta) [inline Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean]:
```suggestion
    (transvection 0 1 zero_ne_one c : SL(2, F)) := by
```
isn't `SpecialLinearGroup` open here? if not, it probably should be!

File: Mathlib/LinearAlgebra/Projectivization/Action.lean
Comment (b-mehta) [inline Mathlib/LinearAlgebra/Projectivization/Action.lean:1]: isn't the stuf fin this file already in your other PR?

File: Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean [hunk 10]
```diff
@@ -483,6 +483,112 @@ protected lemma SpecialLinearGroup.smul_def
...
+  simp [-mulVec_single, add_mulVec, single_mulVec_eq, hij]
+
+/-- The transvection `transvection i j hij b` acts on `e_j = Pi.single j 1` by adding `b·e_i`. -/
+lemma transvection_mulVec_single_other (i j : ι) (hij : i ≠ j) (b : F) :
+    (transvection i j hij b).1 *ᵥ (Pi.single j (1 : F)) = Pi.single j 1 + b • Pi.single i 1 := by
+  rw [transvection_coe]
+  simp [-mulVec_single, add_mulVec, single_mulVec_eq]
+
+/-- Inverse of a transvection: `transvection i j hij b * transvection i j hij (-b) = 1`. -/
+lemma transvection_mul_neg (i j : ι) (hij : i ≠ j) (b : F) :
```
Comment (AntoineChambert-Loir) [inline Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean]: Is it worth making the arguments `i` and `j` implicit?

File: Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean [hunk 11]
```diff
@@ -483,6 +483,112 @@ protected lemma SpecialLinearGroup.smul_def
...
+  rw [transvection_coe]
+  simp [-mulVec_single, add_mulVec, single_mulVec_eq, hij]
+
+/-- The transvection `transvection i j hij b` acts on `e_j = Pi.single j 1` by adding `b·e_i`. -/
+lemma transvection_mulVec_single_other (i j : ι) (hij : i ≠ j) (b : F) :
+    (transvection i j hij b).1 *ᵥ (Pi.single j (1 : F)) = Pi.single j 1 + b • Pi.single i 1 := by
+  rw [transvection_coe]
+  simp [-mulVec_single, add_mulVec, single_mulVec_eq]
+
+/-- Inverse of a transvection: `transvection i j hij b * transvection i j hij (-b) = 1`. -/
```
Comment (AntoineChambert-Loir) [inline Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean:513]: It would be nice to have `transvection_add`.

File: Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean (hunk 8 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean]: No it's not that element.

File: Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean [hunk 12]
```diff
@@ -483,6 +483,112 @@ protected lemma SpecialLinearGroup.smul_def
...
+    exact ⟨1, one_pow _, rfl⟩
+
+end SpecialLinearGroup
+
+end transvection
+
+section SL2
+
+variable {F : Type*} [Field F]
+
```
Comment (AntoineChambert-Loir) [inline Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean:545]: I'm a bit reluctant about this part. 
The diagonal elements exist for all sizes, you need two distinct indices, one for `a` and the other for its inverse. This is the definition that should exist in first place. The SL(2) case will follow easily.

**Review by AntoineChambert-Loir — COMMENTED** [review]
Most of it is fine. Typos have been indicated by Bhavik.
The SL2 case should be generalized.
There is no abstract PSL, and at some point, there should probably be ; can you add a TODO in the relevant file?

**Comment by riccardobrasca** [comment]
Thanks!

bors d+

**Comment by Whysoserioushah** [comment]
> Most of it is fine. Typos have been indicated by Bhavik. The SL2 case should be generalized. There is no abstract PSL, and at some point, there should probably be ; can you add a TODO in the relevant file?

I already have to proof for general PSL and I'm gonna PR it after this is done!

File: Mathlib/LinearAlgebra/Projectivization/Action.lean
Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/Projectivization/Action.lean:1]: yes but I want the final PR to depend on all four so I made the branch depending on the previous one :)

File: Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean (hunk 11 above)
Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean:513]: added!

File: Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean (hunk 10 above)
Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean]: made them implicit now

File: Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean (hunk 8 above)
Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean]: changed

File: Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean (hunk 12 above)
Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean:545]: added and now it's an abbrev of the general def!

**Comment by Whysoserioushah** [comment]
I think I've done all the changes @AntoineChambert-Loir has suggested, can you please have another look? If it's okay then I'll merge it!

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
